US07812025B2
4-Biphenyl-3-yl-N-pyridin-3-ylpiperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (249 mg, 0.923 mmol), 1-biphenyl-3-ylpiperazine (200 mg, 0.839 mmol) and diisopropylethylamine (0.292 ml, 1.68 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 12 hours. To the reaction solution was added water, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and then recrystallized from a mixed solvent of hexane and ethyl acetate to give the titled compound (176 mg, 58.6%) as solid product.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.923 mmol, 249 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-biphenyl-3-ylpiperazine | 0.839 mmol, 200 mg | C1(=CC(=CC=C1)N1CCNCC1)C1=CC=CC=C1 | C16H18N2
reactant | diisopropylethylamine | 1.68 mmol, 0.292 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-Biphenyl-3-yl-N-pyridin-3-ylpiperazine-1-carboxamide | 176 mg, 58.6% | C1(=CC(=CC=C1)N1CCN(CC1)C(=O)NC=1C=NC=CC1)C1=CC=CC=C1 | C22H22N4O
